US07674825B2
XVIIIa: 1,1-Diallyl 5-methyl 1,1,5-pentanetricarboxylate
1.50 g (52.22 mmol) of sodium hydride were added carefully to a solution of 2.00 g (69.62 mmol) of diallyl malonate in 700 ml of dioxane. After the evolution of gas had ended, the mixture was stirred at room temperature for 20 min, and a solution of 7.00 g (34.81 mmol) of methyl 5-bromovalerate in 120 ml of dioxane was added dropwise. The solution was stirred at 110° C. for 16 h. The resulting precipitate was filtered off, the solvent was removed and the residue was taken up in water. The mixture was extracted with diethyl ether, the combined organic phases were dried over Na2SO4 and the solvent was removed. The product was purified chromato-graphically (silica gel, cylcohexane/ethyl acetate 10:1).

reactant | sodium hydride | 52.22 mmol, 1.50 g | [H-].[Na+]
reactant | diallyl malonate | 69.62 mmol, 2.00 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | methyl 5-bromovalerate | 34.81 mmol, 7.00 g | BrCCCCC(=O)OC | C6H11BrO2
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 1,1-Diallyl 5-methyl 1,1,5-pentanetricarboxylate | C(CCCCC(=O)OC)(C(=O)OCC=C)C(=O)OCC=C | C15H22O6
